US08076336B2
2-Bromo-1-[3-morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone
1-[3-Morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone (O2.044; 1.1 g) was dissolved in methanol/THF (20/20 ml) and admixed while stirring with phenyltrimethylammonium tribromide (1.25 g). After stirring at RT for 27 h, 50 ml of 20% citric acid were added and the mixture was stirred for 1 h. After adding DCM (100 ml), the DCM phase was removed, dried and concentrated. The residue was dissolved in acetonitrile (100 ml), and 2 N sulfuric acid (20 ml) was added to the solution. After stirring at RT for 24 h, the mixture was admixed with water and extracted with EA. The EA phase was washed with saturated sodium hydrogencarbonate solution, dried and concentrated. The residue was purified using silica gel (80 g cartridge, n-heptane/EA gradient of 0-60% within 40 min). 866 mg of the title compound were obtained.

reactant | 1-[3-Morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone | 1.1 g | N1(CCOCC1)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)C(C)=O | C12H14F5NO2S
reactant | phenyltrimethylammonium tribromide | 1.25 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol THF | 20 ml | CO.C1CCOC1
product | 2-Bromo-1-[3-morpholin-4-yl-5-(pentafluorosulfanyl)phenyl]ethanone | 866 mg | BrCC(=O)C1=CC(=CC(=C1)S(F)(F)(F)(F)F)N1CCOCC1 | C12H13BrF5NO2S
